US07915411B2
1-Methyl-2-nitro-4-styryl-benzene
A mixture of 4-bromo-2-nitrotoluene (0.432 g, 2.0 mmol), styrene (0.250 g, 2.40 mmol, 1.2 eq), palladium(II) acetate (4.5 mg, 0.020 mmol, 0.01 eq), tri-o-tolylphosphine (12.2 mg, 0.04 mmol, 0.02 eq), and triethylamine (0.405 g, 4.0 mmol, 2.0 eq) in dimethylformamide (2 mL) was heated in a 120° C. oil bath for 4 hours. The mixture was then cooled to room temperature and the solvent evaporated under a stream of nitrogen gas. The residue was partitioned between ethyl acetate and water and the aqueous layer further extracted with ethyl acetate. The combined organic layers were dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was purified by chromatography on silica gel, eluting with a hexane/ethyl acetate gradient to provide the title compound as a yellow solid (166 mg, 35% yield).

reactant | 4-bromo-2-nitrotoluene | 2.0 mmol, 0.432 g | BrC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | styrene | 2.40 mmol, 0.250 g, 1.2 eq | C=CC1=CC=CC=C1 | C8H8
reactant | triethylamine | 4.0 mmol, 0.405 g, 2.0 eq | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 0.020 mmol, 4.5 mg, 0.01 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-o-tolylphosphine | 0.04 mmol, 12.2 mg, 0.02 eq | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | 1-Methyl-2-nitro-4-styryl-benzene | 166 mg, 35% yield | CC1=C(C=C(C=C1)C=CC1=CC=CC=C1)[N+](=O)[O-] | C15H13NO2
